US07816391B2
A solution of methyl 4-iodophenylacetate (4.25 g, 15.39 mmol) was dissolved in DMF (25 mL). BOC-carbazate (2.44 g, 18.47 mmol), 1,10-phenanthroline (278 mg, 1.54 mmol), copper iodide (147 mg, 0.77 mmol) and cesium carbonate (7.0 g, 21.55 mmol) were added and the mixture heated at 120° C. for 60 min. The reaction mixture was diluted with ethyl acetate (25 mL), washed with water (3×10 mL) and brine (10 mL), dried (MgSO4) and evaporated to leave a brown oil which was purified by flash chromatography on silica gel (elution gradient 0-50% EtOAc in isohexane) to give a colourless oil. The oil was dissolved in 4M HCl Dioxan (20 mL) and stirred at ambient temperature for 3 h giving a thick precipitate. Diethyl ether (100 mL) was added and the precipitate recovered by filtration, washed with ether (2×20 mL) and dried under vacuum to leave methyl 2-(4-hydrazinylphenyl)acetate hydrochloride as a light brown solid. (1.63 g, 49%)

reactant | methyl 4-iodophenylacetate | 15.39 mmol, 4.25 g | IC1=CC=C(C=C1)CC(=O)OC | C9H9IO2
reactant | BOC-carbazate | 18.47 mmol, 2.44 g | C(=O)(OC(C)(C)C)OC(NN)=O | C6H12N2O4
reactant | 1,10-phenanthroline | 1.54 mmol, 278 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | cesium carbonate | 21.55 mmol, 7.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl Dioxan | 4M, 20 mL | O1CCOCC1.Cl
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 0.77 mmol, 147 mg | [Cu](I)I
solvent | Diethyl ether | 100 mL | C(C)OCC | C4H10O
product | methyl 2-(4-hydrazinylphenyl)acetate hydrochloride | Cl.N(N)C1=CC=C(C=C1)CC(=O)OC | InChI=1S/C9H12N2O2.ClH/c1-13-9(12)6-7-2-4-8(11-10)5-3-7;/h2-5,11H,6,10H2,1H3;1H
